US05679683
DMF (0.23 mL, 3.1 mmol) is added dropwise to a solution of (COCl)2 (0.28 mL, 3.1 mmol) in 1,2-dichloroethane (15 mL) at 25° C. After gas evolution ceases, 3H-benzofurano[3,2-d]pyrimid-4-one (113 mg, 0.61 mmol) is added. The resulting mixture is heated at reflux for 1 h. After the reaction has cooled to 25° C., water is added and the resulting mixture is extracted with CHCl3. The combined extracts are washed with water, saturated brine and dried (MgSO4). The solvent is removed under reduced pressure to give 4-chlorobenzofurano[3,2-d]pyrimidine (116 mg, 93%) as a yellow solid. 1H NMR (DMSO) δ9.08 (1H, s), 8.30 (1H, d. J=8.1 Hz), 8.02 (1H, d, J=8.5 Hz), 7.90, (1H, dr, Jd =1.3 Hz, Jt =7.1 Hz), 7.64 (1H, dt, Jd =1.0 Hz, Jt =7.8 Hz).

reactant | DMF | 3.1 mmol, 0.23 mL | CN(C)C=O | C3H7NO
reactant | (COCl)2 | 3.1 mmol, 0.28 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | 3H-benzofurano[3,2-d]pyrimid-4-one | 0.61 mmol, 113 mg | N1=CNC(C2=C1C1=C(O2)C=CC=C1)=O | C10H6N2O2
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 4-chlorobenzofurano[3,2-d]pyrimidine | 116 mg, 93% | ClC=1C2=C(N=CN1)C1=C(O2)C=CC=C1 | C10H5ClN2O
